Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Lipitor / Lisinopril / Bactrim DS
 
Attending: ___.
 
Chief Complaint:
facial swelling
 
Major Surgical or Invasive Procedure:
I+D of sub-mandibular, parapharyngeal and sub-masseteric abscess 
from odontogenic infection by ___ on ___
 
History of Present Illness:
Ms. ___ is a ___ female with a past medical history 
of hypertension who presents with facial edema. Patient recently 
underwent a tooth extraction. Post procedurally the doctor 
placed her on a 5-day course of clindamycin. Patient reports 
after discontinuation of antibiotics she began to have worsening 
facial edema, pain, difficulty swallowing. She presented to her 
dentist office today who advised her to come to the emergency 
department. She denies fevers, chills, breathing. 

___ the ED, she was febrile with a temperature of 101.5 T-max. 
She was given IV morphine for pain normal saline, Tylenol 
clindamycin and Dilaudid. Laboratories significant for WBC 14.5 
and NA 129 

CT scan of the face shows a 0.6 x 2.8 cm right subperiosteal 
abscess with extension into the medial pterygoid muscle and 
masseter muscle compatible with odontogenic abscess with 
leftward deviation of the pharynx and pharyngeal fat. She was 
seen by OMFS and taken to the OR. Patient was seen 
post-operatively. She reported continued pain ___ the right face 
however improved.

 
Past Medical History:
Bariatric surgery
 
Social History:
___
Family History:
notable for Colon cancer, coronary artery disease
 
Physical Exam:
ADMISSION: 
==========
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and ___ no apparent distress
FACE: R face with significant submandibular edema extending
medially, ___ drains ___ place
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally ___ all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
.
.
DISCHARGE EXAM:
================
VS: 24 HR Data (last updated ___ @ 1155) Temp: 98.3 (Tm 
98.8), BP: 161/95 (146-171/74-95), HR: 76 (60-76), RR: 16 
(___), O2 sat: 96% (94-96), O2 delivery: RA  
GEN: Alert and ___ no apparent distress sitting up ___ bed
FACE: R face with significant submandibular edema extending 
medially but this is improving, ___ drains have been 
removed, trachea is midline. Trismus improving. 
EYES: Anicteric, pupils equally round
CV: RR, no m/r/g
RESP: Lungs clear to auscultation with good air movement b/l
GI: soft, not tender to palpation, BS+
SKIN: no jaundice
NEURO: awake, alert, conversant with clear speech, facial 
asymmetry from swelling rather than any apparent CN motor 
deficits
PSYCH: pleasant, appropriate affect
.
.
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
========================
___ 12:04PM BLOOD WBC-14.5* RBC-4.71 Hgb-12.6 Hct-37.5 
MCV-80* MCH-26.8 MCHC-33.6 RDW-14.9 RDWSD-42.8 Plt ___
___ 12:04PM BLOOD Glucose-125* UreaN-14 Creat-0.9 Na-129* 
K-5.1 Cl-86* HCO___-27 AnGap-16

MICRO: 
======
___ Blood Cx: NGTD
___ Blood Cx: NGTD

___ 10:57 pm SWAB      RIGHT SUBMANDIBULAR SPACE ABSCESS. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         MODERATE GROWTH MIXED BACTERIAL FLORA ( >=3 COLONY 
TYPES)
         CONSISTENT WITH OROPHARYNGEAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
      . 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      Inappropriate specimen collection (swab) for Fungal Smear 
(___). 

IMAGING/OTHER STUDIES: 
===================
CT sinus/mandible/maxilla ___ 
"FINDINGS:  Socket from prior right mandibular molar extraction 
is seen.  Adjacent increased sclerosis of the right mandible is 
suggestive of chronic inflammation.  Along the lingular aspect 
and under body of the right half of the mandible, there is a 
multiloculated complex rim enhancing fluid collection with 
lobulated extension into the medial pterygoid muscle and 
inferior aspect of the masseter.  The subperiosteal portion of 
the abscess measures 0.6 x 2.8 cm (transverse x AP; series 3, 
image 107; series 602, image 46).  Multiple lobulations are seen 
with the largest component measuring 1.2 x 1.8 cm (series 3, 
image 90) ___ the medial pterygoid.  Reactive inflammatory 
changes including surrounding fat stranding and thickening of 
the right platysma muscle.  Subsequently, there is also leftward 
shift of the oropharynx and parapharyngeal fat. No facial bone 
or mandibular fracture.  Pterygoid plates are intact.  The 
temporomandibular joints are anatomically aligned. The orbits 
are intact. Incidental note of bilateral optic nerve head 
drusens.  Otherwise, the globes and extraocular muscles are 
unremarkable.  No orbital hematoma.   
Included paranasal sinuses are clear.  Included extracranial 
soft tissues are unremarkable. 
  
IMPRESSION:  A 0.6 x 2.8 cm right subperiosteal abscess with 
extension into the medial pterygoid muscle and masseter muscle, 
compatible with an odontogenic abscess.  Subsequently, there is 
leftward deviation of the pharynx and parapharyngeal fat. "

___ Panorex
"FINDINGS:  Lucent area ___ the right mandible situated between 
___ 18 and 21 correlates with the CT finding of bone destruction 
and abscess.  Multiple dental fillings.  Remaining teeth appear 
otherwise unremarkable. 
IMPRESSION:  Lytic area ___ the right mandible corresponding to 
recent CT Findings."

LABS ON DISCHARGE:
================
___ 
WBC-7.2 
RBC-4.37 
Hgb-11.7 
Hct-35.5 
MCV-81* 
MCH-26.8 
MCHC-33.0 
RDW-14.7 
RDWSD-43.8 
Plt ___
DIFF: Neuts-64.3 ___ Monos-7.5 Eos-3.1 Baso-0.4 Im 
___ AbsNeut-4.63 AbsLymp-1.76 AbsMono-0.54 AbsEos-0.22 
AbsBaso-0.03
Glucose-100 
UreaN-8 
Creat-0.5 
Na-138 
K-3.8 
Cl-98 
HCO3-26 
AnGap-14
Albumin-3.4* 
Calcium-9.0 
Phos-3.3 
Mg-1.9
.
.
 
Brief Hospital Course:
___ w/ HTN, hx of gastric bypass, admitted for urgent I+D of 
sub-mandibular, parapharyngeal and Sub-masseteric Abscess from 
odontogenic infection. 
.
.
ACTIVE PROBLEMS:
.
#Sepsis 
#Mandibular/pterygoid/masseter abscess 
___ setting of recent dental extraction. Failed outpatient 
therapy with clinidamycin. CT sinus demonstrated a 0.6 x 2.8 cm 
right subperiosteal abscess with extension into the medial 
pterygoid muscle and masseter muscle, compatible with an 
odontogenic abscess. Underwent emergent operative I+D on ___ 
with ___ drains x2 left ___ place. Due to penicillin allergy, 
treated with IV levaquin and flagyl while inpatient, 
transitioned to oral abx prior to discharge. Plan to complete 7 
more days (last dose ___, will be total of 12 days of abx). 
Outpatient ___ follow up to be arranged by the ___ team for 
___ (they will call patient with appointment info).
.
.
CHRONIC/STABLE PROBLEMS:
.
#Hypertension:
Home agents held ___ setting of sepsis. Losartan resumed first, 
then HCTZ on day of discharge. Resume atenolol on returning home 
(first dose ___.

TRANSITIONAL ISSUES: 
==================
[] consider additional evaluation for borderline anemia w/ 
microcytosis (MCV 81)
.
.
.
.
Time ___ care: >30 minutes ___ discharge-related activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID Duration: 7 Days 
Do not exceed 4000 mg of acetaminophen from all sources ___ any 
24-hour period. 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
Duration: 7 Days 
RX *chlorhexidine gluconate [Peridex] 0.12 % Rinse mouth with 15 
mL twice a day Refills:*0 
3.  LevoFLOXacin 500 mg PO Q24H 
last dose will be on ___ 
RX *levofloxacin 500 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H 
last dose will be on ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
taper and stop over next ___ days 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h:PRN Disp #*20 Tablet 
Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY Duration: 7 Days 
Titrate for goal 1 bowel movement per day. 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 dose by mouth 
Daily, as directed Disp #*14 Packet Refills:*1 
7.  Atenolol 100 mg PO DAILY 
RX *atenolol 100 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
8.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
9.  Losartan Potassium 100 mg PO DAILY 
RX *losartan 100 mg 1 tablet(s) by mouth daiily Disp #*7 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Sepsis
# Mandibular/pterygoid/masseter abscess
# Essential HTN
# Hx of gastric bypass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with a severe dental 
infection. You underwent surgical drainage of the abscess and 
you were treated with IV antibiotics and pain medications and 
gradually improved. 

You are being discharged on two antibiotics which you will take 
for one more week.  You are also going to have peridex 
mouthwash.  For pain management, please take tylenol three times 
per day until you are pain-free, and use the oxycodone on an 
as-needed basis, planning to taper the medication and stopping 
it over the next ___ days.  Please take miralax to help prevent 
constipation while you are taking oxycodone. It is OK to take 
probiotics if you would like to do so (we recommend probiotic 
yogurt). The oral surgery team will see you ___ clinic on 
___, they will contact you with the time of the 
appointment.

It was a pleasure caring for you and we wish you a full and 
speedy recovery!

Sincerely,
Dr. ___ your ___ Medicine Team
 
Followup Instructions:
___